US04337256
To 100 ml of carbon tetrachloride was added 14 g of 1-(4-chlorophenyl)-5-methylisoquinoline. While the solution was heated under reflux and light was irradiated on it, 7.5 g of N-chlorosuccinimide was added. The mixture was heated with stirring. After the reaction, the reaction mixture was cooled. The insoluble matter was removed by filtration. The filtrate was washed in water, and dried, followed by distilling off the solvent. Recrystallization of the residue from ether-hexane afforded 12.7 g of 1-(4-chlorophenyl)-5-chloromethylisoquinoline as light yellow prisms having a melting point of 101° to 102.5° C.

reactant | 1-(4-chlorophenyl)-5-methylisoquinoline | 14 g | ClC1=CC=C(C=C1)C1=NC=CC2=C(C=CC=C12)C | C16H12ClN
reactant | N-chlorosuccinimide | 7.5 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-(4-chlorophenyl)-5-chloromethylisoquinoline | 12.7 g | ClC1=CC=C(C=C1)C1=NC=CC2=C(C=CC=C12)CCl | C16H11Cl2N
